US05612356
Ethyl 4-(3-hydroxy-1-propynyl)benzoate
2.5 g of tetrakis(triphenylphosphine)palladium (0) was added to 50 ml of a solution of 10 g of ethyl p-bromobenzoate in benzene at room temperture. The obtained mixture was stirred at that temperature for one hour, followed by the addition thereto of 2.5 g of propargyl alcohol, 0.84 g of cuprous iodide and 19 g of diethylamine. The obtained mixture was stirred at room temperature for 26 hours and filtered through Celite. Water (50 ml) was added to the filtrate and the obtained mixture was extracted with ethyl acetate. The organic phase was washed with a 10% aqueous solution of hydrochloric acid and a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography (developer: 20% ethyl acetate/n-hexane) to give 3.1 g of the title compound as a pale-yellow solid.

reactant | ethyl p-bromobenzoate | 10 g | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | propargyl alcohol | 2.5 g | C(C#C)O | C3H4O
reactant | diethylamine | 19 g | C(C)NCC | C4H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium | 2.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-(3-hydroxy-1-propynyl)benzoate | 3.1 g | OCC#CC1=CC=C(C(=O)OCC)C=C1 | C12H12O3
